US05256780
To the suspension of lithium aluminum hydride (4.15 g) in tetrahydrofuran (41 ml) at 15°-30° C. under a nitrogen atmosphere was added dropwise over 45 minutes 3-ethyl-2-indolecarboxylic acid methyl ester [22.2 g) in tetrahydrofuran. After the mixture was stirred at room temperature for an hour, ethyl acetate (200 ml) was added dropwise at 20°-30° C., followed by the addition of methanol (10 ml) at the same temperature. The reaction mixture was treated with saturated aqueous potassium sodium tartrate solution (150 ml). Separated organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (10% ethylacetate-n-hexane) to give 3-ethyl-2-hydroxymethylindole (14.0 g) as crystals.

reactant | lithium aluminum hydride | 4.15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-ethyl-2-indolecarboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC=C2C1CC | C12H13NO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium sodium tartrate | 150 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | tetrahydrofuran | 41 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-ethyl-2-hydroxymethylindole | 14.0 g | C(C)C1=C(NC2=CC=CC=C12)CO | C11H13NO
